US08686005B2
2-{4-[3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-isopropyl-piperidin-4-yl)-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
A mixture of 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one (27.1 mg, 0.05 mmol), acetone (200 μL) and Ti(i-PrO)4 (300 μL) was stirred at the room temperature for 2 h and diluted with MeOH (5 mL). NaBH4 (190 mg, 5 mmol) was added into the reaction mixture and the mixture was stirred at the room temperature for 16 h and concentrated. Chromatography of the residue with CH2Cl2/MeOH/28% aqueous NH4OH (490:10:1) afforded the title compound (2.06 mg, 7%). 1H NMR (DMSO-d6) δ 1.22 (s, 3H, CH3), 1.24 (s, 3H, CH3), 1.25-1.45 (4H), 1.80-2.30 (6H), 3.33-3.60 (2H), 3.70 (m, 1H), 3.90-4.19 (2H), 4.35-4.50 (2H), 5.47 (m, 1H, NH), 6.22 (m, 1H), 6.81 (m, 1H), 6.89-6.99 (2H), 7.32-7.38 (1.5H), 7.68 (s, 0.5H), 7.80 (s, 0.5H), 7.94 (s, 0.5H), 11.18 (br s, 1H, NH), 11.22 (d, J=6 Hz, 1H, NH); ESI-MS m/z 585.5 (MH+).

reactant | 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 0.05 mmol, 27.1 mg | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCNCC2)O)C=CC(=C1)C | C30H34N6O4
reactant | acetone | 200 μL | CC(=O)C | C3H6O
reactant | NaBH4 | 5 mmol, 190 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 2-{4-[3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-isopropyl-piperidin-4-yl)-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 2.06 mg, 7% | CC1=C(OCC(CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCN(CC2)C(C)C)O)C=CC(=C1)C | C33H40N6O4
